US05344828
Ethyl 4-(2-Chlorodibenzo [b,f][1,4]thiazepin-11-yl)-1-piperazinecarboxylate
A mixture of 0.86 g of 2-chloro-11-(4-methyl-1-piperazinyl)dibenzo[b,f][1,4]thiazepine and 0.81 g of ethyl chloroformate in 5 ml of toluene was refluxed for 5 hrs. Ice water was added to the reaction mixture and made alkaline with sodium bicarbonate. The mixture was extracted with methylene chloride and the methylene chloride layer was washed with water, dried and concentrated. The residue was chromatographed on silica gel using methylene chloride as an eluent to give 0.70 g of colorless crystals, which were recrystallized from a mixture of isopropyl ether and n-pentane to give colorless prisms, mp 96.5°-97.5° C.

reactant | 2-chloro-11-(4-methyl-1-piperazinyl)dibenzo[b,f][1,4]thiazepine | 0.86 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCN(CC3)C)C1 | C18H18ClN3S
reactant | ethyl chloroformate | 0.81 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-(2-Chlorodibenzo [b,f][1,4]thiazepin-11-yl)-1-piperazinecarboxylate | 0.70 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCN(CC3)C(=O)OCC)C1 | C20H20ClN3O2S
